US06713474B2
A mixture of 4-(4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-1-cyclohexanone (5.6 g, 14.9 mmol), N-methylpiperazine (3.3 mL, 29.8 mmol), acetic acid (2.6 mL, 44.7 mmol), and trimethylorthoformate (9.9 mL, 89.4 mmol) in dichloroethane (100 mL) was stirred at ambient temperature under an atmosphere of nitrogen for 1 hr. Sodium triacetoxyborohydride (14.2 g, 67.05 mmol) was added into the mixture and stirred at ambient temperature under an atmosphere of nitrogen for 18 hours. The solvent was removed under reduced pressure. The residue was partitioned between saturated aqueous sodium bicarbonate solution and ethyl acetate. The water phase was further extracted with ethyl acetate and the combined organic extracts were dried over sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by flash chromatography on silica gel using triethylamine/dichloromethane (2:98) followed by methanol/triethylamine/dichloromethane (2:3:95) as mobile phase to yield trans-4-chloro-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine (1.7 g, 3.7 mmol). 1H NMR (DMSO-d6, 400 MHz) 8.63 (s, 1H), 8.12 (s, 1H), 4.63 (br, 1H), 2.15 (s, 3H), 1.94 (br, 6H), 1.45 (br, 2H) RP-20 HPLC (Hypersil C18, 5 μm, 250×4.6 mm; 25%-100% over 15 min with 0.05 M ammonium acetate, 1 mL/min) Rt 6.17 min.

reactant | 4-(4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-1-cyclohexanone | 14.9 mmol, 5.6 g | ClC=1C2=C(N=CN1)N(C=C2I)C2CCC(CC2)=O | C12H11ClIN3O
reactant | N-methylpiperazine | 29.8 mmol, 3.3 mL | CN1CCNCC1 | C5H12N2
reactant | acetic acid | 44.7 mmol, 2.6 mL | C(C)(=O)O | C2H4O2
reactant | trimethylorthoformate | 89.4 mmol, 9.9 mL | COC(OC)OC | C4H10O3
reactant | Sodium triacetoxyborohydride | 67.05 mmol, 14.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
product | trans-4-chloro-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine | 3.7 mmol, 1.7 g | ClC=1C2=C(N=CN1)N(C=C2I)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C17H23ClIN5
